US06093732
N-(4-Chlorobenzyl)-8-fluoro-4-hydroxy-6-[(Z)-3-hydroxy-1-propenyl]-3-quinolinecarboxamide
To a solution of N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide from Example No. 53 (0.24 g) in 60 mL 3:1 CH2Cl2 :MeOH was added a spatula tip of 5% Pd/CaCO3. The reaction was placed under hydrogen balloon atmosphere. After 2 hours, the Pd catalyst was filtered over Celite, new catalyst added to the filtrate and the reaction again placed under a hydrogen balloon. This regeneration of catalyst was repeated 8 times and the reaction monitored by MS until complete. The reaction mixture was filtered over celite and the filter cake washed thoroughly with MeOH and CH2Cl2. The filtrate was concentrated under reduced pressure to give a tan solid which was a 2:1 mixture of desired product and over-reduced material as shown by NMR. This mixture was further purified by HPLC (Cyclobond 2000) to give the desired product (0.072 g, 30%).

reactant | N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)C#CCO)F)C=C1 | C20H14ClFN2O3
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd CaCO3 | [Pd].C(=O)([O-])[O-].[Ca+2]
solvent | MeOH | CO | CH4O
product | N-(4-Chlorobenzyl)-8-fluoro-4-hydroxy-6-[(Z)-3-hydroxy-1-propenyl]-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)\C=C/CO)F)C=C1 | C20H16ClFN2O3
